US08426447B2
A vessel was charged with (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (0.679 g, 1.933 mmol) in methanol (23.51 mL, 580 mmol). methane sulfonic acid (0.627 mL, 9.66 mmol) was added, and the vial was sealed and placed in a 70° C. oil bath for 5 hours. The volatiles were evaporated, and the residue was loaded onto a silica gel cartridge in MeOH/DCM. The column was eluted onto an 80-g Redi-Sep column with 30-100% of a 90:10:1 mixture of DCM/MeOH/NH4OH in DCM. This was not the best strategy as it clogged the column for a while. The fractions containing product were evaporated to give (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol as an off-white solid.

reactant | (S)-2′-amino-3-(3-hydroxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 1.933 mmol, 0.679 g | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)O)O | C19H17N3O4
reactant | methanol | 580 mmol, 23.51 mL | CO | CH4O
reactant | methane sulfonic acid | 9.66 mmol, 0.627 mL | CS(=O)(=O)O | CH4O3S
product | (S)-2′-amino-3-(3-methoxy-3-methylbut-1-ynyl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C#CC(C)(C)OC)O | C20H19N3O4
